US07872031B2
2-(N-(Ethoxycarbonyl)-N-(2-(thiophen-2-yl)ethyl)amino)acetic acid (14 g, 54.41 mmol) was dissolved in dry dichloromethane (DCM) (300 mL). To this suspension was added 0.1 mL of DMF, followed by the careful addition of oxyl chloride (10.4 g, 81.93 mmol). The reaction mixture was stirred at room temperature for 1 hour, at which time 0.5 mL of additional oxalyl chloride was added. The solvent was evaporated under vacuum to give 2-(N-(ethoxycarbonyl)-N-(2-(thiophen-2-yl)ethyl)amino)acetyl chloride. This acid chloride was re-dissolved in dry DCM (300 mL) and AlCl3 (18.1 g, 135.74 mmol) was added at room temperature. The reaction was kept at room temperature for 1 hour then quenched by the slow addition of ethanol (about 10 mL). The mixture was then poured into ice and stirred for 1 hr. The aqueous mixture was extracted with DCM (3×150 mL). The combined organic layers were dried over MgSO4, filtered, and evaporated to give a residue, which was purified by silica gel chromatography to produce ethyl 4,5,7,8-tetrahydro-4-oxothieno[3,2-d]azepine-6-carboxylate (7.4 g, 30.92 mmol).

reactant | 2-(N-(Ethoxycarbonyl)-N-(2-(thiophen-2-yl)ethyl)amino)acetic acid | 54.41 mmol, 14 g | C(C)OC(=O)N(CCC=1SC=CC1)CC(=O)O | C11H15NO4S
reactant | DMF | 0.1 mL | CN(C)C=O | C3H7NO
reactant | oxyl chloride | 81.93 mmol, 10.4 g | OCl | ClHO
reactant | oxalyl chloride | 0.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 2-(N-(ethoxycarbonyl)-N-(2-(thiophen-2-yl)ethyl)amino)acetyl chloride | C(C)OC(=O)N(CCC=1SC=CC1)CC(=O)Cl | C11H14ClNO3S
